US05859007
To a stirring solution of 2.65 g (5.78 mmol) of 2-(2,4-Dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide in 80 mL of DMF at 0° C. is added 6.36 mL (6.36 mmol) of a 1.0M solution of NaN(TMS)2 in THF. The resulting solution is stirred 10 min, then 400 mL (6.36 mmol) of methyl iodide is added neat. The resulting solution is stirred at RT for 45 min then poured into 100 mL NH4Cl. The reaction mixture is concentrated to remove the DMF, diluted with 500 mL of H2O and extracted with EtOAc (3×200 mL). The organics were dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel flash chromatography using EtOAc as eluent afforded 2.52 g of 2-(3-Methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide as a white foam: 1H NMR (CDCl3, 400 MHz) δ8.50 (s, br, 2H), 7.79 (d, 1H, J=8.1), 7.43 (d, 1H, J=8.1), 7.36-6.94 (m, 8H), 6.88 (d, 1H, J=8.8), 4.98 (m, 1H), 4.26 (m, 2H), 3.85 (s, 3H), 3.54 (q, 1H, J=7.1), 1.42 (d, 3H, J=7.1), 1.07 (m, 6H); low resolution MS (FAB)m/e 473 (MH+); Anal. (C27H28N4O4) Calcd. C, 68.63; H, 5.97; N, 11.86 Found C, 66.91; H, 6.13; N, 11.29.

reactant | 2-(2,4-Dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 5.78 mmol, 2.65 g | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C26H26N4O4
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 6.36 mmol, 400 mL | CI | CH3I
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-Methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 2.52 g | CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C27H28N4O4
